US05602077
Preparation of 3-[4-chloro-2-fluoro-5-(phenylmethoxy)-phenyl]-6-(dimethylamino)-1-methyl-1,3,5-triazine-2,4(1H,3H)-dione
To a solution of 5.05 g (29.2 mmol) of N-ethoxycarbonyl-N,N', N"-trimethylguanidine in 25 mL of toluene was added a solution of 7.72 g (27.8 mmol) of 4-chloro-2-fluoro-5-(phenylmethoxy)phenyl isocyanate in 50 mL of toluene over a period of 30 min while maintaining the temperature between 55° C. and 80° C. It was then stirred at the same temperature for an hour. To a solution of the resulting N-[N-[4-chloro-2-fluoro-5-(phenylmethoxy) phenyl]carbamoyl-N',N'-dimethylamidino]-N-methylcarbamate in toluene was added 3.21 g (71.5 mmol) of dimethylamine in 10 mL of toluene at room temperature. While the temperature was between 25° C. and 40° C., 45 mg (0.834 mmol) of sodium methoxide was added. After 30 min, it was quenched with 100 mL of water. The aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with 0.1N hydrochloric acid, brine, and water, dried (MgSO4) and concentrated in vacuo. The crude product was flash chromatographed over silica gel eluting with a 1:1 v:v mixture of ethyl acetate and hexane to give 5.3 g of the title compound as a brown solid, m.p.: 193°-194° C.; 1H-NMR (CDCl3, 200 MHZ) ppm 7.4 (m, 6H), 6.95 (d, 1H), 5.05 (d, 2H), 3.45 (s, 3H), 3.1 (s, 6H).

reactant | N-ethoxycarbonyl-N,N', N"-trimethylguanidine | 29.2 mmol, 5.05 g | C(C)OC(=O)N(C(=NC)NC)C | C7H15N3O2
reactant | 4-chloro-2-fluoro-5-(phenylmethoxy)phenyl isocyanate | 27.8 mmol, 7.72 g | ClC1=CC(=C(C=C1OCC1=CC=CC=C1)N=C=O)F | C14H9ClFNO2
reactant | dimethylamine | 71.5 mmol, 3.21 g | CNC | C2H7N
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | sodium methoxide | 0.834 mmol, 45 mg | C[O-].[Na+]
product | 3-[4-chloro-2-fluoro-5-(phenylmethoxy)-phenyl]-6-(dimethylamino)-1-methyl-1,3,5-triazine-2,4(1H,3H)-dione | 5.3 g | ClC1=CC(=C(C=C1OCC1=CC=CC=C1)N1C(N(C(=NC1=O)N(C)C)C)=O)F | C19H18ClFN4O3
